US09416138B2
1-Cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanone
Charge a flask with (2,2-dimethyl-1,3-dioxolan-4-yl)methanol (10 g, 75.7 mmol), heat to 85° C. and add freshly cut sodium (465 mg, 20.23 mmol) Heat to 85° C. and stir for 1 hour. Add 2-bromo-1-cyclopropylethanone (3.0 g, 18.4 mmol) maintain the temperature at 85° C. and stir for 30 minutes. Filter and wash the solid with ACN (20 mL). Collect the filtrate and concentrate under reduced pressure. Purify via HPLC conditions Z to give the title compound as a colorless oil. (650 mg, 16.5%). MS (m/z): 215 (M+1).

reactant | (2,2-dimethyl-1,3-dioxolan-4-yl)methanol | 75.7 mmol, 10 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium | 20.23 mmol, 465 mg | [Na] | Na
reactant | 2-bromo-1-cyclopropylethanone | 18.4 mmol, 3.0 g | BrCC(=O)C1CC1 | C5H7BrO
product | 1-Cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanone | C1(CC1)C(COCC1OC(OC1)(C)C)=O | C11H18O4
